US04515626
Production of 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine (intermediate)
5 ml of concentrated aqueous ammonia are added to a solution of 1 g of 2-cyclopropyl-4-methoxy-6-trichloromethyl-1,3,5-triazine in 3 ml of tetrahydrofuran; the whole is placed into a bomb tube and heated at 80° C. for 30 minutes. The mixture is cooled and then filtered; the filter residue is dissolved in 30 ml of methylene chloride, and the solution is dried over magnesium sulfate, and concentrated by evaporation. The residue crystallises to leave 0.4 g of white crystals, m.p. 157°-158° C.

reactant | ammonia | 5 ml | N | H3N
reactant | 2-cyclopropyl-4-methoxy-6-trichloromethyl-1,3,5-triazine | 1 g | C1(CC1)C1=NC(=NC(=N1)OC)C(Cl)(Cl)Cl | C8H8Cl3N3O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-amino-4-cyclopropyl-6-methoxy-1,3,5-triazine | 0.4 g | NC1=NC(=NC(=N1)C1CC1)OC | C7H10N4O
